US08314091B2
A: Ethyl 4-(3-cyclobutylureido)benzoate
Cyclobutylamine (27.91 g, 392.4 mmol, 33.5 mL) was added dropwise to a stirred solution of ethyl 4-isocyanatobenzoate (25 g, 130.8 mmol) in dichloromethane. After 40 minutes stirring, the solid precipitate that had formed was filtered off and dried to afford the title compound (30.28 g). MS (ESI) m/z 263.1 [M+H]+

reactant | Cyclobutylamine | 392.4 mmol, 33.5 mL, 27.91 g | C1(CCC1)N | C4H9N
reactant | ethyl 4-isocyanatobenzoate | 130.8 mmol, 25 g | N(=C=O)C1=CC=C(C(=O)OCC)C=C1 | C10H9NO3
solvent | dichloromethane | ClCCl | CH2Cl2
product | Ethyl 4-(3-cyclobutylureido)benzoate | 30.28 g | C1(CCC1)NC(NC1=CC=C(C(=O)OCC)C=C1)=O | C14H18N2O3
